Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
lisinopril / dicloxacillin
 
Attending: ___.
 
Chief Complaint:
___
 
Major Surgical or Invasive Procedure:
EGD ___ with biopsies
 
History of Present Illness:
___ male with pmhx of duodenal ulcers, CAD and HTN presents to ED 
for evaluation of melena. Pt reports dark/black stool for the 
past 3 days. Yesterday he started to feel mildly weak and 
nauseated with lightheadedness. He presented to PCP today where 
he had a guiac + test and labs were significant for hct of 24.9 
(baseline 40).  He was referred to ED for evaluation and drove 
himself in (refused ambulance). He denies history of GI bleeds, 
no hematemesis, no hemoptysis, no abd pain, no chest pain, no 
dyspnea, no headache, no visual changes. Denies syncope. 

He reports a significant history of >50lbs weight loss by diet 
over the past year, which he states is explained by diet.  He is 
a food addict and over the past year has been measuring exact 
portions of his food and cut out sugar and flour from his diet.  
Over the past week his diet has been irregular (started eating 
sugar and flours again). He also reports using Aleve (2 tabs 
daily) for several months due to pain associated with 
musculoskeletal injuries in his knee and shoulder.

-In the ED, initial vitals:  T98 HR68 BP139/47 RR18 O2100% RA 
-Labs were significant for cbc with h/h 7.3/22.1. Chem-7 
relatively unremarkable, with BUN/Cr of ___. UA negative.
-Imaging studies were not performed
-Exam significant for soft, nontender abdomen. Rectal exam was 
deferred as patient refused stating he already had a rectal exam 
in his PCP ___.
-GI was consulted and recommended 40mg IV protonix Q12, 
transfusion, and plan on EGD tomorrow AM. 
-Pt received 40 mg IV PPI. 

On the floor, VS: T98.5 128/56 58 RR 16 100% RA.  Patient 
reported feeling hungry and became irritated about NPO status 
stating he will leave AMA unless he could eat a regular diet 
with a salad.  He denied any nausea, abdominal pain and last 
stool was last night or early this AM which was dark.  
 
ROS:  
No fevers, chills, night sweats. No changes in vision or 
hearing, no changes in balance. No cough, no shortness of 
breath, no dyspnea on exertion. No chest pain or palpitations. 
No vomiting. No diarrhea or constipation. No dysuria or 
hematuria. No numbness or weakness, no focal deficits.  
 
 
Past Medical History:
HYPERTENSION 
Food addict
Hypogonadotropic hypogonadism
Hypercholesteremia
Osteoporosis
CAD (+MIBI in ___
 
 
Social History:
___
Family History:
Mother-DM, Brother with stomach cancer
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS: T98.5 128/56 58 16 100% RA
GEN: Alert, lying in bed, no acute distress  
HEENT: MMM, anicteric sclera, no conjunctival pallor  
NECK: Supple without LAD  
PULM: Clear, no wheeze, rales, or rhonchi  
COR: RRR, normal S1/S2, no murmurs 
ABD: Soft, NTTP, ND, normal BS  
EXTREM: Warm, no edema  
NEURO: CN II-XII grossly intact, motor function grossly normal 

DISCHARGE PHYSICAL EXAM:  
VS: T98.2 144/67 60 20 98%RA
GEN: Alert, lying in bed, no acute distress  
HEENT: MMM, anicteric sclera, no conjunctival pallor  
NECK: Supple without LAD  
PULM: Clear, no wheeze, rales, or rhonchi  
COR: RRR, normal S1/S2, no murmurs 
ABD: Soft, NTTP, ND, normal BS  
EXTREM: Warm, no edema  
NEURO: CN II-XII grossly intact, motor function grossly normal  
 
Pertinent Results:
ADMISSION LABS:
___ 01:06PM BLOOD WBC-7.7 RBC-2.35* Hgb-7.3* Hct-22.1* 
MCV-94 MCH-31.1 MCHC-33.0 RDW-13.0 RDWSD-43.2 Plt ___
___ 01:06PM BLOOD Neuts-62.6 ___ Monos-8.9 Eos-1.9 
Baso-0.8 Im ___ AbsNeut-4.84 AbsLymp-1.97 AbsMono-0.69 
AbsEos-0.15 AbsBaso-0.06
___ 01:06PM BLOOD Glucose-90 UreaN-21* Creat-0.9 Na-140 
K-4.3 Cl-105 HCO3-27 AnGap-12
___ 04:05AM BLOOD Calcium-8.7 Phos-4.4 Mg-1.9

DISCHARGE LABS:
___ 05:49AM BLOOD WBC-7.8 RBC-3.37* Hgb-10.3* Hct-30.7* 
MCV-91 MCH-30.6 MCHC-33.6 RDW-13.0 RDWSD-42.7 Plt ___

URINANALYSIS:
___ 01:06PM URINE Color-Straw Appear-Clear Sp ___
___ 01:06PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG

___ EGD
Esophagus: Normal esophagus. 
Stomach:  
Mucosa: Mild erythema of the mucosa was noted in the antrum. 
These findings are compatible with gastritis. Cold forceps 
biopsies were performed for histology at the antrum.  
Excavated Lesions Two small clean-based 2-4mm ulcers were found 
in the pylorus.  
Duodenum: Normal duodenum. 
Impression: Mild erythema in the antrum compatible with 
gastritis (biopsy)
Ulcers in the pylorus
Otherwise normal EGD to third part of the duodenum 

 
Brief Hospital Course:
___ male with pmhx of duodenal ulcers, CAD and HTN presents to ED 
with GIB, found to have peptic ulcers.

#UPPER GI BLEED:  Patient presented with few days of melena with 
H/H drop from 40 to 22.  He remained hemodynamically stable 
without further episodes of bleed.  EGD showed peptic ulcers 
with biopsies taken which were small and not bleeding but felt 
by GI to be source of bleed.  Hct responded appropriately to 30 
with 3U PRBC and he had no further episodes of bleeding.  
Patient's H pylori serology was positive at ___ with stool H 
pylori sent and pending at discharge. Due to dicloxacillin 
allergy, patient was discharged on quadruple therapy with 
pantoprazole BID, tetracycline, flagyl, and bismuth QID to be 
taken for 14 days.  Recommendation is to have repeat EGD and 
colonoscopy in 8 weeks.  Patient was advised to avoid NSAIDS and 
alcohol. 
 
CHRONIC MEDICAL ISSUES:
#CAD:  Initially held ASA but restarted prior to discharge. 

#HTN: Home BP meds losartan, amlodipine and metoprolol were 
initially held and restarted given stable BPs. 

#HL: Last LDL on lipid panel in ___ 37, HDL 37, TAG 89.
-Continued home statin

#Hypogonadotropic hypogonadism: takes clomiphene MWF 
-held while inhouse

TRANSITIONAL ISSUES:
- Patient needs PPI BID x at least 8 weeks
- Discharged on quadruple therapy (PPI, bismuth, flagyl, 
tetracycline) x 14 day course (positive H pylori serology, 
pending stool H pylori testing)
- Advised to avoid NSAIDs and alcohol
- Gastric biopsies result pending at discharge
- Needs repeat EGD to assess for healing of gastric ulcers in 
___ weeks and screening colonoscopy at the same time 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sildenafil 20 mg PO Frequency is Unknown 
2. Losartan Potassium 50 mg PO DAILY 
3. clomiPHENE citrate 50 mg oral MWF 
4. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN cp 
5. Metoprolol Succinate XL 50 mg PO DAILY 
6. Atorvastatin 80 mg PO QPM 
7. Amlodipine 5 mg PO DAILY 
8. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. Amlodipine 5 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 80 mg PO QPM 
4. Losartan Potassium 50 mg PO DAILY 
5. Metoprolol Succinate XL 50 mg PO DAILY 
6. Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth every twelve (12) 
hours Disp #*60 Tablet Refills:*1
7. clomiPHENE citrate 50 mg oral MWF 
8. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN cp 
9. Sildenafil 20 mg PO PRN instructed 
10. Bismuth Subsalicylate Chewable 2 TAB PO QID Duration: 14 
Days 
RX *bismuth subsalicylate [Pepto-Bismol] 262 mg 2 tabs by mouth 
four times a day Disp #*112 Tablet Refills:*0
11. MetRONIDAZOLE (FLagyl) 250 mg PO QID 
RX *metronidazole 250 mg 1 tablet(s) by mouth four times a day 
Disp #*56 Tablet Refills:*0
12. Tetracycline 500 mg PO Q6H 
RX *tetracycline 500 mg 1 capsule(s) by mouth every six (6) 
hours Disp #*56 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
PEPTIC ULCER DISEASE
ACUTE BLOOD LOSS ANEMIA
UPPER GASTROINTESTINAL BLEED

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted for blood in your stools and drop in your 
blood counts.  You received three units of blood and responded 
appropriately to the transfusion.  You had an endoscopy which 
showed two ulcers which the gastroenterologist felt was the 
source of your bleed.  A bacteria called Helicobacter pylori is 
often the cause of such ulcers and your blood work shows you 
have had exposure to this bacteria in the past with stool 
confirmatory testing pending at discharge.  You are being 
treated with new medications (pantoprazole, bismuth, flagyl and 
tetracycline) for two weeks, and will need to have a colonoscopy 
and a repeat endoscopy in ___ weeks. You will also be set up 
with an appointment with a gastroenterologist where your results 
from the biopsies taken during the endoscopy will be discussed. 

Please do not take any more NSAIDs (advil, ibuprofen, aleve, 
naproxen etc.) and do not consume any alcohol.  
 
Followup Instructions:
___